US06509352B1
3-Hydroxy-4-methoxybenzaldehyde
3,4-Dihydroxybenzaldehyde (2.76 g, 20 mmol) was dissolved in DMF (15 ml), and methyl iodide (37.4 ml, 60 mmol) and anhydrous lithium carbonate (4.4 g, 60 mmol) were successively added to this solution. After being stirred at an external temperature of 90° C. for 1.5 hours, the reaction mixture was cooled to room temperature and the inorganic salt was filtered off. A saturated aqueous solution of ammonium chloride (200 ml) was added to the filtrate to adjust the aqueous layer to a pH of from 7 to 8, and the solution was extracted with ethyl acetate (300 ml×2). The combined organic layer was washed with a saturated aqueous solution of sodium chloride (300 ml), dried over anhydrous magnesium sulfate, filtered to remove the desiccating agent, and concentrated under reduced pressure to give the title compound (2.5 g, 82.2%) (Table 1).

reactant | 3,4-Dihydroxybenzaldehyde | 20 mmol, 2.76 g | OC=1C=C(C=O)C=CC1O | C7H6O3
reactant | methyl iodide | 60 mmol, 37.4 ml | CI | CH3I
reactant | lithium carbonate | 60 mmol, 4.4 g | C([O-])([O-])=O.[Li+].[Li+]
solvent | DMF | 15 ml | CN(C)C=O | C3H7NO
product | 3-Hydroxy-4-methoxybenzaldehyde | 2.5 g, 82.2% | OC=1C=C(C=O)C=CC1OC | C8H8O3
